### PR TITLE
Option seq/bind lemmas

### PR DESCRIPTION
**Pull request by joehendrix**
This adds a few simplification theorems to simplify Option seq and bind expressions.

It builds on the commits from #330.

### CODE REVIEW

**Comment by digama0** [comment]
My preference is to merge #330 and rebase this on top, as the author of #330 is a new contributor and we shouldn't be poaching their work without (github) attribution.

**Comment by joehendrix** [comment]
I don't agree with labeling this as "poaching", but I am merging in their request now.

File: Std/Data/Option/Lemmas.lean [hunk 1]
```diff
@@ -88,7 +88,22 @@ theorem ball_ne_none {p : Option α → Prop} : (∀ x (_ : x ≠ none), p x) 
...
+
+/-! ### bind -/
+
+@[simp] theorem none_bind (f : α → Option β) : Option.bind none f = none := rfl
+@[simp] theorem some_bind (x : α) (f : α → Option β): Option.bind (some x) f = f x := rfl
+
+@[simp] theorem bind_none (x : Option α)
+    : Option.bind x (fun _ => (none : Option β)) = none := by
+  cases x <;> rfl
+@[simp] theorem bind_some (x : Option α) : Option.bind x some = x := by cases x <;> rfl
```
Comment (digama0) [inline Std/Data/Option/Lemmas.lean:106]:
```suggestion
@[simp] theorem none_bind (f : α → Option β) : none.bind f = none := rfl
@[simp] theorem some_bind (x : α) (f : α → Option β): (some x).bind f = f x := rfl

@[simp] theorem bind_none (x : Option α)
    : x.bind (fun _ => (none : Option β)) = none := by
  cases x <;> rfl
@[simp] theorem bind_some (x : Option α) : x.bind some = x := by cases x <;> rfl
```
